US04159986
Using the procedure of Example 1, thiophene-2-acetic acid and 3,4,5-trimethoxybenzoyl-chloride were reacted to obtain 5-(3',4',5'-trimethoxybenzoyl)-thiophene-2-acetic acid melting at 124° C.

reactant | thiophene-2-acetic acid | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | 3,4,5-trimethoxybenzoyl-chloride | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
product | 5-(3',4',5'-trimethoxybenzoyl)-thiophene-2-acetic acid | COC=1C=C(C(=O)C2=CC=C(S2)CC(=O)O)C=C(C1OC)OC | C16H16O6S
